US07326791B2
N-[(1S)-3-amino-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 94 from N-[(1S)-3-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide and iodotrimethylsilane in dichloromethane. Yield: quantitative; Rf value: 0.25 (silica gel; dichloromethane/ethanol=4:1); C23H26ClN5O2 (439.94); mass spectrum: (M+H)+=440/442 (chlorine isotope).

reactant | N-[(1S)-3-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | C(C1=CC=CC=C1)OC(=O)NCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C31H32ClN5O4
reactant | iodotrimethylsilane | I[Si](C)(C)C | C3H9ISi
reactant | dichloromethane ethanol | ClCCl.C(C)O
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(1S)-3-amino-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: quantitative | NCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C23H26ClN5O2
